US09163020B2
See FIG. 24(b). 1-(2,4-dimethylbenzyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (200 mg, 0.71 mmol) was taken in a 100 ml single necked flask equipped with an air condenser connected to nitrogen source. Added CH2Cl2 (10 mL) to get a clear solution. Triethylamine (5 mL, 35.87 mmol) was added followed by the addition of 1-Propylphosphonic acid cyclic anhydride (2 mL, 1.43 mmol) and 2-Fluoroethylamine hydrochloride (142 mg, 1.43 mmol). The reaction mass was stirred at RT for overnight. This crude compound was subjected for reverse phase purification to obtain 1-(2,4-dimethylbenzyl)-N-(2-fluoroethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide (50.00 mg, 22%) as a off white solid. ES+MS m/z: 326 (M+1). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.21 (s, 3 H ) 2.24 (s, 3 H ) 3.57-3.86 (m, 2 H ) 4.50 (t, J=4.99 Hz, 1 H ) 4.66 (t, J=4.99 Hz, 1 H ) 5.41-5.60 (m, 2 H ) 6.72 (d, J=7.72 Hz, 1 H ) 6.94 (d, J=7.54 Hz, 1 H ) 7.05 (s, 1 H ) 7.28 (dd, J=8.29, 4.71 Hz, 1 H ) 7.98 (dd, J=8.38, 1.04 Hz, 1 H ) 8.13 (s, 1 H ) 8.51 (dd, J=4.62, 1.04 Hz, 1 H ) 8.94 (t, J=5.84 Hz, 1 H ).

reactant | 1-(2,4-dimethylbenzyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.71 mmol, 200 mg | CC1=C(CN2C=C(C3=NC=CC=C32)C(=O)O)C=CC(=C1)C | C17H16N2O2
reactant | Triethylamine | 35.87 mmol, 5 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Propylphosphonic acid cyclic anhydride | 1.43 mmol, 2 mL | CCCP(=O)(O)O | C3H9O3P
reactant | 2-Fluoroethylamine hydrochloride | 1.43 mmol, 142 mg | Cl.FCCN
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,4-dimethylbenzyl)-N-(2-fluoroethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | 50.00 mg, 22% | CC1=C(CN2C=C(C3=NC=CC=C32)C(=O)NCCF)C=CC(=C1)C | C19H20FN3O
